US06632909B2
Methyl 3(E)-(2-ethoxy-4′-methoxybiphenyl-4-yl)acrylate
A mixture of 1.0 g (2.82 mmol) of methyl 3(E)-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)acrylate, 0.47 g (3.10 mmol) of 4-methoxyphenylboric acid, 0.71 g (8.46 mmol) of sodium bicarbonate and 20 ml of dimethoxyethane is flushed three times with argon, 163 mg (0.14 mmol) of tetrakis(triphenylphosphine)palladium(0) are then added and the reaction is then allowed to continue for 15 hours at 80° C. Thereafter, the reaction mixture is cooled and is partitioned between ethyl acetate and water and the organic phase is washed with water and dried over magnesium sulfate, filtered and evaporated down. The residue is chromatographed over 100 g of silica gel using toluene/ethyl acetate (3:1). This gives methyl 3(E)-(2-ethoxy-4′-methoxybiphenyl-4-yl)acrylate.

reactant | methyl 3(E)-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)acrylate | 2.82 mmol, 1.0 g | C(C)OC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)/C=C/C(=O)OC | C13H13F3O6S
reactant | 4-methoxyphenylboric acid | 3.10 mmol, 0.47 g | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
reactant | sodium bicarbonate | 8.46 mmol, 0.71 g | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 163 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | Methyl 3(E)-(2-ethoxy-4′-methoxybiphenyl-4-yl)acrylate | C(C)OC1=C(C=CC(=C1)/C=C/C(=O)OC)C1=CC=C(C=C1)OC | C19H20O4
